US06756378B2
To a stirred solution of methyl 4-(trans-1-tert-butoxycarbonyl-4-hydroxy-(2S)-pyrrolidinyl)methoxybenzoate (351 mg, 1.0 mmol) and Ph3P (393 mg, 1.5 mmol) in CHCl3 (5.0 ml) was added CCl4 (5.0 ml) at room temperature. The reaction mixture was stirred at 50° C. for 24 hr. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane to n-hexane-EtOAc (4:1, v/v) as eluent to give methyl 4-(cis-1-tert-butoxycarbonyl-4-chloro-(2S)-pyrrolidinyl)methoxybenzoate (340 mg, 92%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.48 (s, 9H), 2.38-2.65 (m, 2H), 3.50-3.60 (m, 1H), 3.88 (s, 3H), 3.89-4.05 (m, 1H), 4.26-4.41 (m, 4H), 6.95-6.97 (m, 2H), 7.98 (d, J=8.5 Hz, 2H).

reactant | methyl 4-(trans-1-tert-butoxycarbonyl-4-hydroxy-(2S)-pyrrolidinyl)methoxybenzoate | 1.0 mmol, 351 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)COC1=CC=C(C(=O)OC)C=C1 | C18H25NO6
reactant | Ph3P | 1.5 mmol, 393 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CCl4 | 5.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CHCl3 | 5.0 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-(cis-1-tert-butoxycarbonyl-4-chloro-(2S)-pyrrolidinyl)methoxybenzoate | 340 mg, 92% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)Cl)COC1=CC=C(C(=O)OC)C=C1 | C18H24ClNO5
